US06610701B2
To a solution of 2-bromobenzylamine hydrochloride (11.12 g, 0.05 mol) in dimethylformamide (50 ml) was added di-tert-butyl dicarbonate (10.91 g, 0.05 mol) and triethylamine (3.66 ml, 0.05 mol). The reaction mixture was stirred at room temperature overnight. Saturated sodium carbonate solution was added and the mixture was extracted with ethyl acetate. The combined organic layers were washed with brine. Drying and solvent evaporation gave tert-butyl-2-bromobenzylcarbamate; MS (ES+) M+1 286.4 for C12H16BrNO2.

reactant | 2-bromobenzylamine hydrochloride | 0.05 mol, 11.12 g | Cl.BrC1=C(CN)C=CC=C1
reactant | di-tert-butyl dicarbonate | 0.05 mol, 10.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.05 mol, 3.66 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-butyl-2-bromobenzylcarbamate | C(C)(C)(C)OC(NCC1=C(C=CC=C1)Br)=O | C12H16BrNO2
